US08293909B2
Ethyl 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate.
Ethyl 5-(benzyloxy)-2-(4-fluorophenyl)-6-(methylsulfonamido)pyrazolo[1,5-a]pyridine-3-carboxylate (0.2 g, 0.41 mmol, 1 eq) was dissolved in DMF and cooled to 0° C. Potassium carbonate (0.171 g, 1.6 mmol, 3 eq) was then added and the reaction mixture stirred for 15 minutes. Ethyl iodide (0.037 ml, 0.45 mmol, 1.1 eq) was added slowly dropwise and the resulting mixture was stirred at room temperature for 4 h. The solution was concentrated completely and diluted with water and the product was extracted with dichloromethane twice. The combined organic extracts were washed with water and concentrated yielding the desired product. Yield: 0.16 g (76%). 1HNMR (400 MHz, DMSO-d6): δ 1.07-1.10 (t, J=7.16 Hz, 3H), 1.21-1.24 (t, 3H), 3.04 (s, 3H), 3.64 (m, 2H), 4.19-4.24 (q, J=7.04 Hz, 2H), 5.38 (s, 2H), 7.28 (t, J=8.8 Hz, 2H), 7.42-7.54 (m, 3H), 7.57-7.65 (m, 3H), 7.77-7.95 (m, 2H), 9.02 (s, 1H). LCMS: (ES+) m/z=512.0 (M+H).

reactant | Ethyl 5-(benzyloxy)-2-(4-fluorophenyl)-6-(methylsulfonamido)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.41 mmol, 0.2 g, 1 eq | C(C1=CC=CC=C1)OC1=CC=2N(C=C1NS(=O)(=O)C)N=C(C2C(=O)OCC)C2=CC=C(C=C2)F | C24H22FN3O5S
reactant | Potassium carbonate | 1.6 mmol, 0.171 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl iodide | 0.45 mmol, 0.037 ml, 1.1 eq | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 5-(benzyloxy)-6-(N-ethylmethylsulfonamido)-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-3-carboxylate | C(C1=CC=CC=C1)OC1=CC=2N(C=C1N(S(=O)(=O)C)CC)N=C(C2C(=O)OCC)C2=CC=C(C=C2)F | C26H26FN3O5S
